US05521160
A.2. Reaction of methyl 5-amino-2-(4-chlorophenoxy)-benzoate with maleic anhydride in a solvent such as methylene chloride or dimethylformamide in the presence of pyridine or 4-dimethylaminopyridine gives (Z)-but-2-enedicarboxylic acid 3-carbomethoxy-4-(4-chloro-phenoxy)-phenylamide which is converted by saponification with aqueous sodium hydroxide or potassium hydroxide in water and a second solvent such as methanol, ethanol or acetonitrile into (Z)-but-2-enedicarboxylic acid 3-carboxy-4-(4-chloro-phenoxy)-phenylamide, melting point: 224°-226° C.

reactant | methyl 5-amino-2-(4-chlorophenoxy)-benzoate | NC=1C=CC(=C(C(=O)OC)C1)OC1=CC=C(C=C1)Cl | C14H12ClNO3
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (Z)-but-2-enedicarboxylic acid 3-carbomethoxy-4-(4-chloro-phenoxy)-phenylamide | C(=O)(OC)C=1C=C(C=CC1OC1=CC=C(C=C1)Cl)NC(=O)C(\C=C/C)C(=O)O | C20H18ClNO6
